US04826815
3-Carbomethoxy-3-methylbutanoic acid [Bull. Soc. Chim. Fr., 828 (1965), 7.85 g, 0.049 mol] was reacted with diphenylphosphorylazide and triethylamine as described in Example 36. After heating the toluene solution for 1.5 h, benzyl alcohol (8 g) was added directly to the reaction mixture and heating at reflux was continued for 20 h. Work-up and chromatography gave methyl 3-benzyloxycarbonylamino-2,2-dimethylpropionate. NMR (300 MHz, CDCl3): 1.2 (s,6H), 3.3 (d,2H), 3.68 (s,3H), 5.1 (s,2H), 5.22 (m,1H). A sample of the methyl ester (6.21 g, 0.023 mol) was saponified with 3.1 g (0.78 mol) of NaOH in 100 mL ethanol/10 mL H2O at room temperature for 48 h. Work-up as in Example 36 gave the desired product as a liquid. NMR (300 MHz, CDCl3): 1.23 (s,6H), 3.32 (d,2H), 5.10 (s,2H), 5.27 (m,1H).

reactant | 3-Carbomethoxy-3-methylbutanoic acid | 0.049 mol, 7.85 g | C(=O)(OC)C(CC(=O)O)(C)C | C7H12O4
reactant | diphenylphosphorylazide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 8 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 3-benzyloxycarbonylamino-2,2-dimethylpropionate | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)OC)(C)C | C14H19NO4
